US06156700
Preparation of {{5-[3,6-Dihydro-3-methyl-2,6-dioxo-4-(trifluoromethyl)-1(2H)-pyrimidinyl]-1,2-benzisothiazol-3-yl}oxy}acetonitrile
A mixture of {{5-[3,6-dihydro-2,6-dioxo-4-(trifluoromethyl)-1(2H)-pyrimidinyl]-1,2-benzisothiazol-3-yl}oxy}acetonitrile (2.63 g, 7.15 mmol) and potassium carbonate (1.97 g, 14.3 mmol) in N,N-dimethylformamide is stirred for 30 minutes, treated with iodomethane (2.03 g, 14.3 mmol), stirred overnight at room temperature, and poured into an ice-water mixture. The resultant aqueous mixture is filtered to obtain a solid. The solid is dissolved in ethyl acetate and the resultant solution is washed sequentially with water and brine, dried over anhydrous magnesium sulfate, and concentrated in vacuo to obtain a brown solid. Column chromatography of the solid using silica gel and methylene chloride affords a yellow solid. The yellow solid is recrystallized from a methylene chloride/hexanes solution to give the title product as an off-white solid, mp 265-266° C.

reactant | {{5-[3,6-dihydro-2,6-dioxo-4-(trifluoromethyl)-1(2H)-pyrimidinyl]-1,2-benzisothiazol-3-yl}oxy}acetonitrile | 7.15 mmol, 2.63 g | O=C1N(C(C=C(N1)C(F)(F)F)=O)C=1C=CC2=C(C(=NS2)OCC#N)C1 | C14H7F3N4O3S
reactant | potassium carbonate | 14.3 mmol, 1.97 g | C([O-])([O-])=O.[K+].[K+]
reactant | iodomethane | 14.3 mmol, 2.03 g | IC | CH3I
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | {{5-[3,6-Dihydro-3-methyl-2,6-dioxo-4-(trifluoromethyl)-1(2H)-pyrimidinyl]-1,2-benzisothiazol-3-yl}oxy}acetonitrile | CN1C(N(C(C=C1C(F)(F)F)=O)C=1C=CC2=C(C(=NS2)OCC#N)C1)=O | C15H9F3N4O3S
